US04820734
9.1 g (32.1 mmol) of rac-(1S*)-cis-2-[(R*)-4-chloro-α-(nitromethyl)benzyl]cyclohexanol, 16.8 g (64.2 mmol) of triphenylphosphine and 10.8 g (64.2 mmol) of p-nitrobenzoic acid are dissolved in 180 ml of tetrahydrofuran. To this solution is added dropwise with 30 minutes a solution of 11.3 g (64.2 mmol) of diethyl azodicarboxylate in 80 ml of tetrahydrofuran and the mixture is subsequently stirred at room temperature for 5 hours. After distilling off the solvent the residue obtained is chromatographed on a 30-fold amount of silica gel while eluting with toluene/hexane (1:2). By recrystallization of the product obtained from methylene chloride/hexane there is obtained rac-(1R*)-trans-2-[(R*)-4-chloro-α-(nitromethyl)benzyl]cyclohexyl p-nitrobenzoate in the form of colourless crystals of m.p. 146°-148°.

reactant | rac-(1S*)-cis-2-[(R*)-4-chloro-α-(nitromethyl)benzyl]cyclohexanol | 32.1 mmol, 9.1 g | ClC1=CC=C([C@H](C[N+](=O)[O-])[C@@H]2[C@@H](CCCC2)O)C=C1 | C14H18ClNO3
reactant | triphenylphosphine | 64.2 mmol, 16.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | p-nitrobenzoic acid | 64.2 mmol, 10.8 g | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
reactant | diethyl azodicarboxylate | 64.2 mmol, 11.3 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 180 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | rac-(1R*)-trans-2-[(R*)-4-chloro-α-(nitromethyl)benzyl]cyclohexyl p-nitrobenzoate | [N+](=O)([O-])C1=CC=C(C(=O)O[C@H]2[C@@H](CCCC2)[C@H](C2=CC=C(C=C2)Cl)C[N+](=O)[O-])C=C1 | C21H21ClN2O6
